US07115611B2
In analogy to the procedures described in examples 70B] and 26C], 2-(5-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester (example 70A]) was reacted with [2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-methanol (example 1M]) in the presence of triphenylphosphine and di-tert.-butyl azodicarboxylate to give 2-methyl-2-{2-methyl-5-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethoxy]-phenoxy}-propionic acid ethyl ester which was subsequently saponified to yield the title compound as colorless solid.

reactant | 2-(5-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=C(C=CC(=C1)O)C)=O | C13H18O4
reactant | [2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-methanol | CC1=NC(=CC=C1CO)C1=CC=C(C=C1)C(F)(F)F | C14H12F3NO
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert.-butyl azodicarboxylate | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
product | 2-methyl-2-{2-methyl-5-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethoxy]-phenoxy}-propionic acid ethyl ester | C(C)OC(C(C)(OC1=C(C=CC(=C1)OCC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)C)C)=O | C27H28F3NO4
